US04629737
1-Chloro-1-methoxy-2-phenoxyethane
To 36 g of phenoxyacetaldehyde dimethyl acetal was added, dropwise, 40 ml of acetyl chloride and 0.5 ml of thionyl chloride. After 15 h at room temperature the solution was evaporated and the residue distilled under vacuum, 110°-120° C./1 mm, to yield the title compound as a colourless oil.

reactant | phenoxyacetaldehyde dimethyl acetal | 36 g | COC(COC1=CC=CC=C1)OC | C10H14O3
reactant | thionyl chloride | 0.5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | acetyl chloride | 40 ml | C(C)(=O)Cl | C2H3ClO
product | 1-Chloro-1-methoxy-2-phenoxyethane | ClC(COC1=CC=CC=C1)OC | C9H11ClO2
